US09023852B2
a) 1-(3-Chloro-[1,2,4]thiadiazol-5-yl)-4-[2-(4-methoxy-phenyl)-ethyl]-piperazine
A mixture of 1-(4-methoxyphenethyl)piperazine dihydrochloride (1.04 g, 3.55 mmol), 3,5-dichloro-1,2,4-thiadiazole (500 mg, 3.23 mmol) and DIPEA (1.33 g, 1.8 ml, 10.3 mmol) in 23 mL EtOH was stirred for 1 h at RT. The reaction solution was concentrated in vacuo and the crude product was purified by column chromatography on silica eluting with a gradient formed from heptane and EtOAc to yield, after evaporation of the product containing fraction, 1.06 g (97%) of the title compound as white solid. MS (m/e): 339.2 (MH+).

reactant | 1-(4-methoxyphenethyl)piperazine dihydrochloride | 3.55 mmol, 1.04 g | Cl.Cl.COC1=CC=C(CCN2CCNCC2)C=C1
reactant | 3,5-dichloro-1,2,4-thiadiazole | 3.23 mmol, 500 mg | ClC1=NSC(=N1)Cl | C2Cl2N2S
reactant | DIPEA | 10.3 mmol, 1.8 ml, 1.33 g | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 23 mL | CCO | C2H6O
product | 1-(3-Chloro-[1,2,4]thiadiazol-5-yl)-4-[2-(4-methoxy-phenyl)-ethyl]-piperazine | ClC1=NSC(=N1)N1CCN(CC1)CCC1=CC=C(C=C1)OC | C15H19ClN4OS
